US07517910B2
3-[4-({3-[(3,5-dimethyl-1H-pyrazol-1-yl)methyl]-4-isobutoxybenzyl}oxy)-2-fluorophenyl]propanoic acid
To a mixed solution of ethyl 3-[4-({3-[(3,5-dimethyl-1H-pyrazol-1-yl)methyl]-4-isobutoxybenzyl}oxy)-2-fluorophenyl]propanoate (0.37 g, 0.77 mmol) in methanol (2 mL) and tetrahydrofuran (4 mL) was added 1 N aqueous sodium hydroxide solution (1.5 mL), and the mixture was stirred at room temperature for 2 hr. The reaction mixture was neutralized with 1 N hydrochloric acid, and diluted with ethyl acetate. The mixture washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1-hexane/ethyl acetate=1/2) to give the title compound (0.25 g, yield 56%) as colorless crystals.

reactant | ethyl 3-[4-({3-[(3,5-dimethyl-1H-pyrazol-1-yl)methyl]-4-isobutoxybenzyl}oxy)-2-fluorophenyl]propanoate | 0.77 mmol, 0.37 g | CC1=NN(C(=C1)C)CC=1C=C(COC2=CC(=C(C=C2)CCC(=O)OCC)F)C=CC1OCC(C)C | C28H35FN2O4
reactant | sodium hydroxide | 1 N, 1.5 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | methanol | 2 mL | CO | CH4O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[4-({3-[(3,5-dimethyl-1H-pyrazol-1-yl)methyl]-4-isobutoxybenzyl}oxy)-2-fluorophenyl]propanoic acid | 0.25 g, yield 56% | CC1=NN(C(=C1)C)CC=1C=C(COC2=CC(=C(C=C2)CCC(=O)O)F)C=CC1OCC(C)C | C26H31FN2O4
